US07981903B2
A solution of 1-(3-ethenyl-4-nitrophenyl)-4-(1-methylethyl)piperazine (1.4 g, 5.1 mmol) and 10% palladium on carbon (0.5 g) in degassed ethanol was maintained under an atmosphere of hydrogen (60 psi) overnight. The next morning, the reaction was filtered through celite, concentrated, and purified via chromatography on SiO2 to afford 2-ethyl-4-[4-(1-methylethyl)-1-piperazinyl]aniline (0.8 g, 3.2 mmol, 64% Yield). 1H NMR (400 MHz, CDCl3) d ppm 0.92 (t, J=7.3 Hz, 3 H), 1.51-1.60 (m, 2 H), 1.81 (dd, J=7.7, 2.9 Hz, 4 H), 1.98-2.06 (m, 2 H), 2.30-2.37 (m, 2 H), 2.40 (t, J=7.9 Hz, 1 H), 3.06 (d, J=11.7 Hz, 2 H), 3.67 (s, 2 H), 3.82 (s, 3 H), 6.63-6.70 (m, 3 H). 1 H NMR (400 MHz, DMSO-d6) δ ppm 0.96 (d, J=6.6 Hz, 6 H), 1.07 (td, J=7.5, 0.7 Hz, 3H), 2.37 (q, J=7.3 Hz, 2 H), 2.51 (s, 4 H), 2.59-2.67 (m, 1 H), 2.86 (s, 4 H), 4.29 (s, 2 H), 6.48 (s, 1H), 6.51 (d, J=19.0 Hz, 2 H).

reactant | 1-(3-ethenyl-4-nitrophenyl)-4-(1-methylethyl)piperazine | 5.1 mmol, 1.4 g | C(=C)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(C)C | C15H21N3O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-ethyl-4-[4-(1-methylethyl)-1-piperazinyl]aniline | 3.2 mmol, 0.8 g, 64% Yield | C(C)C1=C(N)C=CC(=C1)N1CCN(CC1)C(C)C | C15H25N3
